USRE029358
The starting material, 1,5-bis(3-chloro-p-tolyl)-1,4-pentadien-3-one is prepared by the reaction of two moles of 3-chloro-p-tolualdehyde [Wahl, Ann. Chim. [11] 5 (1936), pp. 5, 39] and one mole of acetone in ethanol solution in the presence of sodium hydroxide.

reactant | 3-chloro-p-tolualdehyde | two moles | ClC=1C=C(C=CC1C=O)C | C8H7ClO
reactant | acetone | one mole | CC(=O)C | C3H6O
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | C(C)O | C2H6O
product | 1,5-bis(3-chloro-p-tolyl)-1,4-pentadien-3-one | ClC=1C=C(C=CC1C=CC(C=CC1=C(C=C(C=C1)C)Cl)=O)C | C19H16Cl2O
